* C:\Users\iola\Documents\VAMK\ESD\sim1.asc
Vsource Vcc 0 3.3
XU2 N002 N001 Vcc 0 Diff LMC6482A/NS
Vbase Base 0 1.6
R1 N001 Base 1k
R2 N002 Sweep 1k
R3 Diff N001 10k
R4 N002 0 10k
Vsweep Sweep 0 1.6
XU1 Diff Ref Vcc 0 Out LMC6482A/NS
R5 Vcc Ref 10k
R6 Ref 0 1k
R7 Out 0 1k
.dc Vsweep 1.6 1.7 100u
.include nat_semi.lib
.backanno
.end
